US05162448
A 1-liter round-bottomed flask equipped with a pressure equalizing addition funnel was flushed with nitrogen and charged with 41.5 grams (451 mmol.) of glycerol, 750 ml. of methylene chloride and 100 mg. of p-toluenesulfonic acid. Methyl orthoacetate, 56.9 grams (473 mmol.), was added over 5 minutes at room temperature, with stirring; stirring was continued for 18 hours after which 1 gram of anhydrous sodium carbonate was added and the mixture was stirred for one additional hour and filtered. The solvent was stripped under vacuum to yield 65 grams (97% of theoretical) of 4-hydroxymethyl-2-methoxy-2-methyl-1,3-dioxolane as a clear oil. Its molecular structure was confirmed by proton and carbon-13 nuclear magnetic resonance spectroscopy.

reactant | glycerol | 451 mmol, 41.5 grams | OCC(O)CO | C3H8O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Methyl orthoacetate | C(C)(OC)([O-])[O-]
reactant | sodium carbonate | 1 gram | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-hydroxymethyl-2-methoxy-2-methyl-1,3-dioxolane | 65 grams, 97% | OCC1OC(OC1)(C)OC | C6H12O4
